US07645789B2
To a solution of 2-bromo-5-fluoro-4-nitroaniline (45.7 g, 0.19 mol) and ethyl 3,3-dimethylpent-4-ynoate (88.3 g, 0.57 mol) in Et3N (700 mL) was added Pd(PPh3)2Cl2 (13.8 g, 0.02 mol) and CuI (3.6 g, 0.02 mol) under N2. The reaction mixture was stirred at 70° C. for 8 hours. The reaction mixture was diluted with 500 mL of ethyl acetate and 1500 mL of water. The organic layer was separated and the aqueous phase was extracted with ethyl acetate (500 mL×3), the combined organic layers were washed with brine and dried over anhydrous Na2SO4, filtered and evaporated under reduced pressure and the residue was purified by column chromatography on silica gel (petroleum ether/ethyl acetate 10:1) to give ethyl-5-(2-amino-4-fluoro-5-nitrophenyl)-3,3-dimethylpent-4-ynoate (34.5 g, 57%). 1H NMR (300 MHz, CDCl3) δ 8.05 (d, J=8.1 Hz, 1H), 6.36 (d, J=13.2 Hz, 1H), 5.60 (brs, 2H), 4.16 (q, J=7.2 Hz, 2H), 2.51 (s, 2H), 1.40 (s, 6H), 1.28 (t, J=7.2 Hz, 3H).

reactant | 2-bromo-5-fluoro-4-nitroaniline | 0.19 mol, 45.7 g | BrC1=C(N)C=C(C(=C1)[N+](=O)[O-])F | C6H4BrFN2O2
reactant | ethyl 3,3-dimethylpent-4-ynoate | 0.57 mol, 88.3 g | CC(CC(=O)OCC)(C#C)C | C9H14O2
solvent | Et3N | 700 mL | CCN(CC)CC | C6H15N
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 1500 mL | O | H2O
catalyst | Pd(PPh3)2Cl2 | 0.02 mol, 13.8 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.02 mol, 3.6 g | [Cu]I
product | ethyl-5-(2-amino-4-fluoro-5-nitrophenyl)-3,3-dimethylpent-4-ynoate | 34.5 g, 57% | C(C)OC(CC(C#CC1=C(C=C(C(=C1)[N+](=O)[O-])F)N)(C)C)=O | C15H17FN2O4
